US06630493B1
a) Butyl 1-(2-naphthyl)methylimidazole-2-carboxylate
5.0 g (29.7 mmol) of butyl imidazole-2-carboxylate and 6.6 g (29.7 mmol) of 2-bromomethylnaphthalene were reacted analogously to procedure 8a. 6.4 g (71%) of the product were obtained.

reactant | butyl imidazole-2-carboxylate | 29.7 mmol, 5.0 g | N1C(=NC=C1)C(=O)OCCCC | C8H12N2O2
reactant | 2-bromomethylnaphthalene | 29.7 mmol, 6.6 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | Butyl 1-(2-naphthyl)methylimidazole-2-carboxylate | 6.4 g, 71% | C1=C(C=CC2=CC=CC=C12)CN1C(=NC=C1)C(=O)OCCCC | C19H20N2O2
